US08232286B2
4-(4,4-DIMETHYL-PIPERIDIN-1YL)-CYCLOHEXYLAMINE
0.7 g (1.8 mmol) cis-dibenzyl-[4-(4,4-dimethyl-piperidin-1-yl)-cyclohexyl]-amine are placed in 14 ml of methanol, 0.14 g palladium/charcoal (10%) are added and the mixture is hydrogenated at 50 psi and 20° C. Then the catalyst is suction filtered and the mother liquor is concentrated by evaporation. Yield: 0.3 g

reactant | cis-dibenzyl-[4-(4,4-dimethyl-piperidin-1-yl)-cyclohexyl]-amine | 1.8 mmol, 0.7 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@@H](CC1)N1CCC(CC1)(C)C)CC1=CC=CC=C1 | C27H38N2
solvent | methanol | 14 ml | CO | CH4O
catalyst | palladium/charcoal | 0.14 g | [Pd] | Pd
product | 4-(4,4-DIMETHYL-PIPERIDIN-1YL)-CYCLOHEXYLAMINE | CC1(CCN(CC1)C1CCC(CC1)N)C | C13H26N2
